data/mechanism_extracts/AdvSynthCatal/10.1002_adsc.201901115.json
{"doi": "10.1002_adsc.201901115", "journal": "AdvSynthCatal", "is_review": false, "rxn_class_summary": "Electrochemical iodide-mediated intramolecular selenocyclization of unsaturated alcohols (and acids) with diaryl diselenides to give selenomethyl-substituted cyclic ethers and lactones", "mechanism_family": ["mediator_anodic", "cation_initiated", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of iodide (I-) to I+ (via 2e- loss), which acts as electrophilic mediator generating an iodonium ion on the alkene; cathode reduces I2 back to I- and protons to H2, closing the redox cycle", "key_intermediates": [{"name": "iodonium cation on alkene (intermediate A)", "smiles": null, "role": "reactive"}, {"name": "iodo-cyclic ether intermediate B (after intramolecular O-attack and deprotonation)", "smiles": null, "role": "reactive"}, {"name": "I+ (electrophilic iodine mediator)", "smiles": null, "role": "transient"}, {"name": "I2 (regenerated, reduced at cathode)", "smiles": "II", "role": "transient"}], "electron_flow": "Anode oxidizes I- to I+ (2e- loss); I+ activates the alkene of the unsaturated alcohol to form an iodonium cation (A), which undergoes intramolecular O-cyclization with loss of H+ to give iodo-ether B; B is displaced by PhSe- (from PhSeSePh, releasing 1/2 I2) to deliver the selenoether product, and the cathode reduces I2 to I- and H+ to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Product 3b obtained in 75% yield under standard conditions; no inhibition, arguing against a radical pathway"}, {"name": "BHT", "smiles": "CC(C)(C)c1cc(C)cc(C(C)(C)C)c1O", "purpose": "radical_trap", "observation": "Product 3b obtained in 74% yield; no inhibition, arguing against a radical pathway"}, {"name": "I2 (no current)", "smiles": "II", "purpose": "intermediate_trap", "observation": "With I2 (1 equiv) and no current, 3b formed in 50% yield, supporting I+ as the active electrophilic species"}, {"name": "NH4I without current", "smiles": null, "purpose": "redox_probe", "observation": "No reaction between 1b and 2a with NH4I in the absence of current — confirms electrochemical activation needed"}, {"name": "divided cell experiment", "smiles": null, "purpose": "other", "observation": "Only trace 3b in divided cell, proving cathodic reduction of I2 back to I- is essential for catalytic turnover"}, {"name": "Cyclic voltammetry of NH4I, 1a, 2a and mixtures", "smiles": null, "purpose": "redox_probe", "observation": "NH4I shows two oxidation peaks at 0.38 V (I-/I2) and 0.67 V (I3-/I2); curves unchanged upon addition of 1a or 2a, indicating I- is oxidized first and substrates are not directly oxidized"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "cyclic_voltammetry", "stoichiometric_intermediate", "other"], "evidence_strength": "strong", "notes": "A radical mechanism was explicitly considered but excluded based on TEMPO/BHT non-inhibition and the I2-only control giving product. The divided-cell experiment establishes paired electrolysis: anodic I- oxidation coupled with cathodic I2/H+ reduction is required for catalytic turnover."}
